US04091115
5 g of palladized carbon [10% Pd(OH)2 ] were added to a solution of 5 g of 7-dimethylamino-9-phenyl-6,7-dihydro [5H] benzocycloheptene in 250 ml of ethanol and the mixture was stirred under a hydrogen atmosphere at 20° C until absorption ceased. The mixture was filtered and the filtrate was evaporated to dryness. The residue was chromatographed over silica gel and elution with a 9-1-1 cyclohexane-ethyl acetate-triethylamine mixture yielded 0.52 g of isomer A (equatorial 5-H) and 2.9 g of isomer B (axial 5-H) of 7-dimethylamino-5-phenyl-6,7,8,9-tetrahydro [5H] benzocycloheptene.

reactant | 7-dimethylamino-9-phenyl-6,7-dihydro [5H] benzocycloheptene | 5 g | CN(C1CCC2=C(C(=C1)C1=CC=CC=C1)C=CC=C2)C | C19H21N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 7-dimethylamino-5-phenyl-6,7,8,9-tetrahydro [5H] benzocycloheptene | CN(C1CC(C2=C(CC1)C=CC=C2)C2=CC=CC=C2)C | C19H23N
